US04064258
In this preparation 10 ml. of acetonitrile is stirred in 300 ml. of anhydrous tetrahydrofuran, under nitrogen, and cooled to -70° C. 62.5 Ml. (0.1 mole) of 1.6 M butyl lithium, in hexane, is added dropwise at a controlled rate such that the temperature of the mixture does not exceed -50° C. The mixture is then stirred for five minutes and 0.1 mole adamant-2-one in 60 ml. of anhydrous tetrahydrofuran is added dropwise and the mixture then allowed to warm to room temperature. The mixture is then evaporated, under vacuum, to remove the tetrahydrofuran solvent and then 300 ml. of ethyl acetate is added, and the mixture washed twice with water. The organic layer is separated and dried with anhydrous magnesium sulfate and filterd. The filtrate is evaporated to dryness, under vacuum, affording 2-hydroxy-2-(adamant-2-yl) acetonitrile.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
product | 2-hydroxy-2-(adamant-2-yl) acetonitrile | OC(C#N)C1C2CC3CC(CC1C3)C2 | C12H17NO
